US04426524
Synthesis of [2-methyl-3-(pyridin-2-yl)phenyl]methyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate (Method A)
This reaction was conducted in the manner of Example 3, Step 2 using 0.58 g (0.002 mol) of cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride, 0.44 g (0.002 mol) of 2-methyl-3-(2-pyridyl)phenylmethanol, and 0.18 mL (0.002 mol) of pyridine in 30 mL of toluene. The yield of [2-methyl-3-pyridin-2-yl)phenyl]methyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate was 0.8 g, b.p. 170° C./0.05 mm.

reactant | cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.002 mol, 0.58 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
reactant | 2-methyl-3-(2-pyridyl)phenylmethanol | 0.002 mol, 0.44 g | CC1=C(C=CC=C1C1=NC=CC=C1)CO | C13H13NO
reactant | pyridine | 0.002 mol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@H]1C([C@H]1C(=O)OC)(C)C)C(F)(F)F | C10H12ClF3O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | [2-methyl-3-(pyridin-2-yl)phenyl]methyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1)C1=NC=CC=C1)C)(C)C)C(F)(F)F | C22H21ClF3NO2
